Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Oxycodone / latex / gluten
 
Attending: ___.
 
Chief Complaint:
CC: ___ ___
 
Major Surgical or Invasive Procedure:
repeat c-section

 
History of Present Illness:
HPI: ___ G4P2 at 39w1d presenting to triage for ___ evaluation.
Patient woke up this morning feeling generally unwell. Had
headache with blurry vision. She took her blood pressure with a
wrist cuff and it was 190s/90s. She then drank some fluids and
took a nap. Her husband went and got an arm cuff and she retook
her BPs and were 140s/90s. Her symptoms have since resovled.
Denies HA, changes in vision, CP, and SOB. Denies ctx, VB, and
LOF. +FM
 
PNC: 
- ___ ___ by LMP 
- Labs Rh+/Abs-/Rub I/RPR NR/HBsAg-/HIV-/GBS-
- Screening: NIPT LR 
- FFS: wnl
- GLT: wnl
- U/S (___): 2382g, 73%

 
Past Medical History:
OBHx: G4P2
- G1: pLTCS arrest, 10#5
- G2: SAB
- G3: rLTCS, 11#6
- G4: current 
 
GynHx:
- denies abnormal Pap, fibroids, Gyn surgery, STIs
 
PMH: 
- Fibromyalgia 
- Gluten intolerance
 
PSH: 
- Appendectomy
- Cholecystectomy
- LTCS x2
 
Meds: 
- PNV

All: 
- Latex
- oxycodone 
 
Social History:
 
SHx: 
- denies T/E/D
 
Physical Exam:
On day of discharge:

Physical Exam:
24 HR Data (last updated ___ @ 412)
    Temp: 97.6 (Tm 98.3), BP: 121/75 (121-132/75-87), HR: 102
(98-105), RR: 18, O2 sat: 96% (96-98), O2 delivery: RA  
Fluid Balance (last updated ___ @ 832) 
  Last 8 hours No data found
  Last 24 hours  Total cumulative 0ml
    IN: Total 0ml
    OUT:  Total 0ml, Urine Amt 0ml  

General: Resting in bed in no acute distress, A&Ox3
CV: Normal rate, regular rhythm. No murmurs, rubs, gallops
Pulm: Lungs clear to auscultation bilaterally. No wheezes,
crackles
Abd: soft, nontender, fundus firm at 2cm below umbilicus
Incision: clean, a little moist with abd pad in place, intact, 
no
erythema/induration
Extremities: no calf tenderness, 1+ nontender pitting edema in
calves
 
 
Pertinent Results:
___ 06:48PM BLOOD WBC-7.6 RBC-4.73 Hgb-12.4 Hct-37.7 
MCV-80* MCH-26.2 MCHC-32.9 RDW-14.5 RDWSD-42.0 Plt ___
___ 06:48PM BLOOD Creat-0.4
___ 06:48PM BLOOD ALT-16 AST-19
___ 06:48PM BLOOD UricAcd-4.2
___ 05:38AM URINE Color-LtAmb* Appear-Hazy* Sp ___
___ 06:49PM URINE Color-Colorless Appear-Hazy* Sp 
___
___ 05:38AM URINE Blood-MOD* Nitrite-NEG Protein-20* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-6.0 
Leuks-SM*
___ 06:49PM URINE Blood-MOD* Nitrite-NEG Protein-NEG 
Glucose-200* Ketone-10* Bilirub-NEG Urobiln-NORMAL pH-6.5 
Leuks-NEG
___ 05:38AM URINE RBC->182* WBC-16* Bacteri-FEW* Yeast-NONE 
Epi-<1 TransE-<1
___ 06:49PM URINE RBC-13* WBC-1 Bacteri-FEW* Yeast-NONE 
Epi-10
___ 05:38AM URINE CastHy-2*
___ 06:49PM URINE Hours-RANDOM Creat-27 TotProt-10 
Prot/Cr-0.4*
 
Brief Hospital Course:
Ms. ___ is a ___ yr old woman who was admitted to the 
antepartum service at ___ after ruling in for pre-eclampsia 
without severe features with mild range BPs and a 
protein:creatinine ration of 0.4. She had normal PIH labs and no 
symptoms of severe pre-eclampsia. She was admitted overnight as 
she was preciously scheduled for a C-section the following 
morning. On HD#2 she underwent an uncomplicated repeat 
low-transverse cesarean section. She had normal to low mild 
range pressures post-partum not requiring medications. On PPD#1 
she was tachycardic to the 110s with otherwise normal vitals and 
this improved without intervention. On PPD#1 she had hematuria 
with a UA showing many RBCs, few leukocytes, few bacteria. A 
urine culture had no growth. This resolved with increased 
hydration and she continued to have adequate urine output. On 
PPD#3 she developed a headache that resolved with Benadryl and 
Compazine. By post-partum day 4 she was tolerating PO, her pain 
was well-controlled with PO medications, and she was ambulating 
and voiding independently. She was discharged home with close 
follow-up for a blood pressure check. 
 
Medications on Admission:
PNV
 
Discharge Medications:
1.  acetaminophen ___ mg oral Q6H:PRN pain 
available without prescription  
2.  Cephalexin 500 mg PO Q6H cellulitis Duration: 7 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*28 Tablet Refills:*0 
3.  Fluconazole 150 mg PO Q24H incisional redness Duration: 2 
Days 
RX *fluconazole [Diflucan] 150 mg 1 tablet(s) by mouth every 24 
hours x 2 days Disp #*2 Tablet Refills:*0 
4.  HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
RX *hydromorphone 2 mg 1 tablet(s) by mouth four times a day 
Disp #*20 Tablet Refills:*0 
5.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
lower doses available without prescription  
6.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - First 
Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *prochlorperazine maleate 10 mg 1 tablet(s) by mouth every 
six (6) hours Disp #*30 Tablet Refills:*0 
7.  Sarna Lotion 1 Appl TP QID:PRN erythema 
available without prescription  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gestational hypertension
previous c-section

 
Discharge Condition:
good

 
Discharge Instructions:
rest. no heavy lifting  exercise baths for 4 weeks
 
Followup Instructions:
___